US08476297B2
Step 3: 3-Methyl-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline hydrogen chloride
To a solution of 2-benzyl-3-methyl-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline (485 mg, 1.27 mmol) in MeOH (5 mL) was added palladium, 10 wt. % on activated carbon (41 mg, 0.38 mmol). The resulting mixture was then stirred under H2 for 16 h. Then, 5 N HCl (0.2 mL) was added followed by palladium, 10 wt. % on activated carbon (41 mg, 0.38 mmol). The resulting mixture was stirred at RT under H2 (45 psi) for 30 min. The mixture was filtered through celite and the celite was washed with MeOH (2×5 mL). The combined filtrates were concentrated to give the title compound as a light yellow solid (HCl salt), which was used in the next step without further purification.

reactant | 2-benzyl-3-methyl-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline | 1.27 mmol, 485 mg | C(C1=CC=CC=C1)N1C(C2=CC=CC=C2CC1C)C1=CC=C(C=C1)C(F)(F)F | C24H22F3N
reactant | HCl | 5 N, 0.2 mL | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | 3-Methyl-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline hydrogen chloride | Cl.CC1NC(C2=CC=CC=C2C1)C1=CC=C(C=C1)C(F)(F)F | InChI=1S/C17H16F3N.ClH/c1-11-10-13-4-2-3-5-15(13)16(21-11)12-6-8-14(9-7-12)17(18,19)20;/h2-9,11,16,21H,10H2,1H3;1H
